US09023852B2
2-{4-[3-(4-Chloro-phenyl)-[1,2,4]thiadiazol-5-yl]-piperazin-1-yl}-1-(4-methoxy-phenyl)-ethanol
A mixture of 2-(4-(3-(4-chlorophenyl)-1,2,4-thiadiazol-5-yl)piperazin-1-yl)-1-(4-methoxyphenyl)ethanone (75 mg, 175 μmol) and NaBH4 (10 mg, 264 μmol) in THF (5 mL) and MeOH (1 mL) was stirred at RT. Water (5 mL) and 10% aq.Na2CO3 (5 mL) was added and stirred for 10 min. The mixture was extracted with EtOAc; the organic layers were washed with brine (20 mL), dried over Na2SO4, filtered off and concentrated in vacuo.

reactant | 2-(4-(3-(4-chlorophenyl)-1,2,4-thiadiazol-5-yl)piperazin-1-yl)-1-(4-methoxyphenyl)ethanone | 175 μmol, 75 mg | ClC1=CC=C(C=C1)C1=NSC(=N1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)OC | C21H21ClN4O2S
reactant | NaBH4 | 264 μmol, 10 mg | [BH4-].[Na+]
reactant | Water | 5 mL | O | H2O
reactant | Na2CO3 | 5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | 2-{4-[3-(4-Chloro-phenyl)-[1,2,4]thiadiazol-5-yl]-piperazin-1-yl}-1-(4-methoxy-phenyl)-ethanol | ClC1=CC=C(C=C1)C1=NSC(=N1)N1CCN(CC1)CC(O)C1=CC=C(C=C1)OC | C21H23ClN4O2S
